US06162614
In 40 ml of acetone were suspended 0.3 g (1 mmol) of 4-nitrophenyl-α-D-glucopyranoside (manufactured by Tokyo Kasei Ind., Ltd.) as marketed, 0.85 g (3 mmol) of vinyl palmitate and 30 mg of Lipase B, and the suspension was reacted in a shaking apparatus at 25° C. for 1 day. After the enzyme was filtered off, the solvent was concentrated to afford a crude product in a white wax form, which was purified by silica gel chromatography (5% methanol-dichloromethane) to give 0.458 g of 4-nitrophenyl 6-O-palmitoyl-α-D-glucopyranoside in a white wax form. Yield 81%

reactant | 4-nitrophenyl-α-D-glucopyranoside | 1 mmol, 0.3 g | C1=CC(=CC=C1[N+](=O)[O-])O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C12H15NO8
reactant | vinyl palmitate | 3 mmol, 0.85 g | C(CCCCCCCCCCCCCCC)(=O)OC=C | C18H34O2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-nitrophenyl 6-O-palmitoyl-α-D-glucopyranoside | 0.458 g, Yield 81% | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OC2=CC=C(C=C2)[N+](=O)[O-])O1)O)O)O | C28H45NO9
